US09227976B2
Step 1: 3-iodo-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-pyrazolo[3,4-c]pyridazin-4-ol
A suspension of 4-chloro-3-iodo-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (140 mg, 0.29 mmol) in DMSO (3 mL) and NaOH aqueous solution (4 M, 3 mL) was heated to 50° C. for 2.5 h. The mixture was left to cool to rt, then neutralised to pH 2-3 before loading on an SCX (10 g) cartridge. The cartridge was eluted with MeOH then CH2Cl2/MeOH (1:1) and finally the product was released with 10% methanolic ammonia (7 N) in CH2Cl2/MeOH (1:1). Evaporation of the solvent gave the title compound (100 mg).

reactant | 4-chloro-3-iodo-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 0.29 mmol, 140 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)CCN2CCN(CC2)C | C18H20ClIN6
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | NaOH | 4 M, 3 mL | [OH-].[Na+]
product | 3-iodo-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 100 mg | IC1=NN(C=2N=NC(=C(C21)O)C2=CC=CC=C2)CCN2CCN(CC2)C | C18H21IN6O
